US05582764
26.9 g (0.1 mol) of 4-bromo-3',4'-difluorobiphenyl was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of copper (I) chloride and 85.9 g (0.1 mol) of 4-(2-(trans-4-(3-methylbutyl)-4-silacyclohexyl)ethyl)cyclohexyl bromide. After a conventional after treatment, 4-(trans-4-(2-(trans-4-(3-methylbutyl)-4-silacyclohexyl)ethyl)cyclohexyl)-3',4'-difluorobiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 34.2 g (yield 73.0%) of the trans isomer.

reactant | 4-bromo-3',4'-difluorobiphenyl | 0.1 mol, 26.9 g | BrC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C12H7BrF2
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | 4-(2-(trans-4-(3-methylbutyl)-4-silacyclohexyl)ethyl)cyclohexyl bromide | 0.1 mol, 85.9 g | CC(CC[Si@@H]1CC[C@H](CC1)CCC1CCC(CC1)Br)C | C18H35BrSi
catalyst | copper (I) chloride | 0.5 g | [Cu]Cl
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-(3-methylbutyl)-4-silacyclohexyl)ethyl)cyclohexyl)-3',4'-difluorobiphenyl | yield 73.0% | CC(CC[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F)C | C30H42F2Si
